US08431563B2
To a 100-mL round-bottomed flask was added ethyl 3-methoxyphenylalaninate (526 mg, 2.35 mmol), 2-(tert-butoxycarbonylamino)acetic acid (454 mg, 2.59 mmol, Sigma-Aldrich, St. Louis, Mo.), HATU (1.07 g, 2.82 mmol, Sigma-Aldrich, St. Louis, Mo.), Hünig's base (0.819 mL, 4.71 mmol) and DMF (5 mL). The reaction mixture was stirred at room temperature for 2 h then diluted with water (30 mL) and extracted with EtOAc (2×50 mL). The organic extract was washed with saturated aqueous NaCl (30 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as light-yellow oil. The crude product was purified by silica gel chromatography, eluting with 60% EtOAc in hexanes to give ethyl N-(tert-butoxycarbonyl)glycyl-3-methoxyphenylalaninate (822 mg).

reactant | ethyl 3-methoxyphenylalaninate | 2.35 mmol, 526 mg | COC=1C=C(C[C@H](N)C(=O)OCC)C=CC1 | C12H17NO3
reactant | 2-(tert-butoxycarbonylamino)acetic acid | 2.59 mmol, 454 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | HATU | 2.82 mmol, 1.07 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hünig's base | 4.71 mmol, 0.819 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 30 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | ethyl N-(tert-butoxycarbonyl)glycyl-3-methoxyphenylalaninate | 822 mg | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](CC1=CC(=CC=C1)OC)C(=O)OCC | C19H28N2O6
